US08283353B2
3′-fluoro-4′-{[4-(trans-3-hydroxycyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a mixture of 4′-{[4-(trans-3-acetylcyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile (0.49 g), 30% hydrogen peroxide (8.3 mL) and chloroform (10 mL) was gradually added dropwise trifluoroacetic acid anhydride (5.6 mL), and the mixture was heated under reflux for 14 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were gradually added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was mixed with tetrahydrofuran (5 mL), methanol (5 mL) and 1 M aqueous sodium hydroxide solution (5 mL). The mixture was stirred at room temperature for 4 hr, and the reaction mixture was neutralized with 1 M hydrochloric acid. After evaporation of the solvent under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.29 g, 62%).

reactant | 4′-{[4-(trans-3-acetylcyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 0.49 g | C(C)(=O)[C@@H]1C[C@H](C1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN2 | C28H26FN5O2
reactant | hydrogen peroxide | 8.3 mL | OO | H2O2
reactant | trifluoroacetic acid anhydride | 5.6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 3′-fluoro-4′-{[4-(trans-3-hydroxycyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.29 g, 62% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2C[C@H](C2)O)=O)C=2C(=CC=CC2)C#N | C26H24FN5O2
